US06797718B2
2,6,7-trimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine
A solution of 5,6-dimethyl-2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridine-3,4-diamine (12 g) in toluene (300 ml) from Part C was combined with pyridine HCl (0.08 g) and triethyl orthoacetate (8.4 ml). Under a nitrogen atmosphere, the reaction mixture was heated to reflux (99° C.) for 1.5 hours. TLC and HPLC analysis indicated that the reaction was complete. The solvent was removed under reduced pressure. The resulting yellow oil was dissolved in dichloromethane and washed once with saturated potassium carbonate, 3 times with water, and 3 times with brine. The combined organic layers were dried with magnesium sulfate and concentrated under reduced pressure. The resulting yellow oil darkened slightly after being dried under vacuum at 70° C. overnight. The product was purified by column chromatography over silica using 95/5 ethyl acetate/methanol as the eluant. The product was dried and then triturated with diethyl ether to yield a white solid that was dried under vacuum at 80° C. overnight. NMR analysis of the dried solid indicated a pure product.

reactant | 5,6-dimethyl-2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]pyridine-3,4-diamine | 12 g | CC=1C(=C(C(=NC1C)OC1=CC=CC=C1)N)NCCOCCCC=1C=NC=CC1 | C23H28N4O2
reactant | pyridine HCl | 0.08 g | Cl.N1=CC=CC=C1
reactant | triethyl orthoacetate | 8.4 ml | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6,7-trimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCCCC=1C=NC=CC1 | C25H28N4O2
